US07723330B2
Step B: Preparation of 4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine:
1-(4-Methoxybenzyl)-4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine (42 g, 98.9 mmol) and 2,2,2-trifluoroacetic acid (76.2 ml, 989 mmol) were stirred at reflux for 4 h. The reaction was concentrated in vacuo, using toluene to azeotrope. The residue was diluted with EtOAc and saturated NaHCO3 was added to neutralize the acid, and the resulting suspension was stirred for 20 minutes. The precipitate was filtered and washed with water to remove residual NaHCO3. The solid was further dried by toluene azeotrope. The tan solid was left under high vacuum for 18 hours. The product (22 g, 70%) was carried forward without further purification.

reactant | 1-(4-Methoxybenzyl)-4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | 98.9 mmol, 42 g | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C(=C3)Cl)[N+](=O)[O-])C)C=C1 | C21H17ClN4O4
reactant | 2,2,2-trifluoroacetic acid | 989 mmol, 76.2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | ClC=1C(=CC(=C(OC2=C3C(=NC=C2)NN=C3)C1)C)[N+](=O)[O-] | C13H9ClN4O3
